US05221763
(Z)-7-[(1R,2R,3R,5S)-3,5-dihydroxy-2-{(E)-(3S)-3-hydroxy-1-octenyl}-cyclopentyl]-5-heptenoic acid;
13,14-dihydro-15-keto-20-ethyl-PGF2 α isopropyl ester is isopropyl(Z)-7-[(1R,2R,3R,5S)-3,5-dihydroxy-2-{3-oxo-1-decyl}cyclopentyl]-hept-5-enoate;

reactant | 13,14-dihydro-15-keto-20-ethyl-PGF2 | CCCCCCCC(=O)CC[C@H]1[C@@H](C[C@@H]([C@@H]1C/C=C/CCCC(=O)OC(C)C)O)O | C25H44O5
reactant | isopropyl(Z)-7-[(1R,2R,3R,5S)-3,5-dihydroxy-2-{3-oxo-1-decyl}cyclopentyl]-hept-5-enoate | O[C@H]1[C@@H]([C@H]([C@H](C1)O)C\C=C/CCCC(=O)OC(C)C)CCC(CCCCCCC)=O | C25H44O5
product | (Z)-7-[(1R,2R,3R,5S)-3,5-dihydroxy-2-{(E)-(3S)-3-hydroxy-1-octenyl}-cyclopentyl]-5-heptenoic acid | O[C@H]1[C@@H]([C@H]([C@H](C1)O)C\C=C/CCCC(=O)O)\C=C\[C@H](CCCCC)O | C20H34O5
